US04440788
A solution of 1.32 g (20 mmole) of potassium hydroxide (85%) in 15 ml of methanol was added dropwise to a solution of 832 mg (12 mmole) of hydroxylamine hydrochloride in 20 ml of methanol under ice cooling sufficient to keep the temperature at +9° to +10° C. Similarly under ice cooling, a solution of 1.91 g (10 mmole) of S-methyl-N-acetyl-L-cysteine methyl ester in 15 ml of methanol was added dropwise. After completion of the dropwise addition, the temperature was allowed to rise to room temperature and the mixture was allowed to stand for 3 days as it was. Thereafter ethyl acetate which contained hydrogen chloride gas was added to attain a pH of about 4. The resulting precipitate was filtered off and the filtrate was concentrated in vacuo by distilling off the methanol. The residue thus obtained was subjected to chromatography on silica gel column (developing solvent: 10% methanol-containing chloroform) to give 1.68 g (88% yield) of N-(S-methyl-N-acetylcysteinyl)-hydroxylamine.

reactant | potassium hydroxide | 20 mmole, 1.32 g | [OH-].[K+]
reactant | hydroxylamine hydrochloride | 12 mmole, 832 mg | Cl.NO
reactant | S-methyl-N-acetyl-L-cysteine methyl ester | 10 mmole, 1.91 g | COC([C@@H](NC(C)=O)CSC)=O | C7H13NO3S
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 15 ml | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(S-methyl-N-acetylcysteinyl)-hydroxylamine | 1.68 g, 88% yield | CSC[C@H](NC(C)=O)C(=O)NO | C6H12N2O3S
